US07572801B2
In analogy to the procedure described in example 78.4, 5-butyl-2-chloro-N-{2-[2-(3-chloro-phenyl)-ethoxy]-1-imino-ethyl}-nicotinamide was treated with KOtBu in DMSO to obtain 6-butyl-2-[2-(3-chloro-phenyl)-ethoxymethyl]-3H-pyrido[2,3-d]pyrimidin-4-one as off-white crystals. MS: m/e=370.4 [M−H−].

reactant | 5-butyl-2-chloro-N-{2-[2-(3-chloro-phenyl)-ethoxy]-1-imino-ethyl}-nicotinamide | C(CCC)C=1C=NC(=C(C(=O)NC(COCCC2=CC(=CC=C2)Cl)=N)C1)Cl | C20H23Cl2N3O2
reactant | KOtBu | CC(C)(C)[O-].[K+]
solvent | DMSO | CS(=O)C | C2H6OS
product | 6-butyl-2-[2-(3-chloro-phenyl)-ethoxymethyl]-3H-pyrido[2,3-d]pyrimidin-4-one | C(CCC)C1=CC2=C(N=C(NC2=O)COCCC2=CC(=CC=C2)Cl)N=C1 | C20H22ClN3O2
